US04737495
7,8-Dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of glacial acetic acid (1.8 g) in dioxan (10 ml) is added dropwise to a suspension of 7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one (1.3 g, 6 mmol) and sodium borohydridel (1 g, 3 mmol) in dioxan (20 ml), refluxed for 3 hours, concentrated by evaporation and decomposed with water. The mixture is extracted twice with methylene chloride, the extract is concentrated by evaporation and the residue is taken up in ether. After filtration the ether is eliminated in vacuo.

reactant | acetic acid | 1.8 g | C(C)(=O)O | C2H4O2
reactant | 7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | 6 mmol, 1.3 g | COC1=CC2=C(CC(NCC2)=O)C=C1OC | C12H15NO3
reactant | sodium | [Na] | Na
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 7,8-Dimethoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | COC1=CC2=C(CCNCC2)C=C1OC | C12H17NO2
